US06100254
In a flame-dried round bottom flask, anthranilic acid N-methoxyl-N-methylamide (8.00 g, 44.4 mmol) and m-bromoanisidine (8.31 g, 44.4 g) were dissolved in 250 mL of THF and the resulting solution was cooled to -78° C. With vigorous stirring, 2 equiv of nBuLi in hexanes (55.5 mL, 1.6 M, 88.8 mmol) was added dropwise by a syringe pump at 0.6 mL/min. After 20 min, 80 mL of 1 N hydrochloric acid was carefully added, the mixture was extracted with ethyl acetate (600 mL), and the ethyl acetate was washed with water (300 mL) and brine (300 mL), dried over sodium sulfate and concentrated in vacuo. Flash chromatography with 95:5 hexanes/ethyl acetate afforded 6.92 g (69% yield) of 2-amino-3'-methoxybenzophenone as a yellow oil. 2-Amino-3'-methoxybenzophenone was converted to 2-amino-3'-hydroxybenzophenone (below) prior to characterization.

reactant | anthranilic acid N-methoxyl-N-methylamide | 44.4 mmol, 8.00 g | O(C)N(C(C=1C(N)=CC=CC1)=O)C | C9H12N2O2
reactant | m-bromoanisidine | 8.31 g | BrC=1C=C(OC)C=CC1N | C7H8BrNO
reactant | nBuLi | 2 equiv | [Li]CCCC
reactant | hydrochloric acid | 1 N, 80 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-amino-3'-methoxybenzophenone | 6.92 g, 69% yield | NC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC=C1 | C14H13NO2
